US04968848
Benzaldehyde was reacted with trifluoromethyltrimethylsilane as in Example 10. After a reaction time of 5 hours, 20 ml of water were added, and the reaction mixture was heated briefly to 80° C. 50 ml of hexane were then added. The reaction mixture was then extracted twice with 100 ml of water, and the resultant organic phase was dried over Na2SO4. On distillation of the crude product, 15.4 g (88% yield) of 1-phenyl-2,2,2-trifluoroethanol (boiling point 68°-69° C./6 mbar) were obtained.

reactant | Benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | trifluoromethyltrimethylsilane | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | water | 20 ml | O | H2O
solvent | hexane | 50 ml | CCCCCC | C6H14
product | 1-phenyl-2,2,2-trifluoroethanol | 15.4 g, 88% yield | C1(=CC=CC=C1)C(C(F)(F)F)O | C8H7F3O
